US08461158B2
Reaction of tert-butyl 3-{[4-[2-(difluoromethyl)-4-methoxy-1H-benzimidazol-1-yl]-6-(4-morpholinyl)-1,3,5-triazin-2-yl][3-(4-morpholinyl)propyl]amino}-1-piperidinecarboxylate with TFA in CH2Cl2 gave 4-[2-(difluoromethyl)-4-methoxy-1H-benzimidazol-1-yl]-6-(4-morpholinyl)-N-[3-(4-morpholinyl)propyl]-N-(3-piperidinyl)-1,3,5-triazin-2-amine, which was treated with methanesulfonyl chloride in CH2Cl2 to give 4-[2-(difluoromethyl)-4-methoxy-1H-benzimidazol-1-yl]-N-[1-(methylsulfonyl)-3-piperidinyl]-6-(4-morpholinyl)-N-[3-(4-morpholinyl)propyl]-1,3,5-triazin-2-amine in 78% yield.

reactant | tert-butyl 3-{[4-[2-(difluoromethyl)-4-methoxy-1H-benzimidazol-1-yl]-6-(4-morpholinyl)-1,3,5-triazin-2-yl][3-(4-morpholinyl)propyl]amino}-1-piperidinecarboxylate | FC(C1=NC2=C(N1C1=NC(=NC(=N1)N1CCOCC1)N(C1CN(CCC1)C(=O)OC(C)(C)C)CCCN1CCOCC1)C=CC=C2OC)F | C33H47F2N9O5
reactant | TFA | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
product | 4-[2-(difluoromethyl)-4-methoxy-1H-benzimidazol-1-yl]-6-(4-morpholinyl)-N-[3-(4-morpholinyl)propyl]-N-(3-piperidinyl)-1,3,5-triazin-2-amine | FC(C1=NC2=C(N1C1=NC(=NC(=N1)N1CCOCC1)N(C1CNCCC1)CCCN1CCOCC1)C=CC=C2OC)F | C28H39F2N9O3
